US05864039
5-Phenylthiopentyl chloride (1.84 g) was dissolved in dichloromethane (50 ml), and one equivalent of m-chloroperbenzoic acid was added thereto, which was followed by stirring at room temperature for 6 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give 1.20 g of 5-phenylsulfinylpentyl chloride.

reactant | 5-Phenylthiopentyl chloride | 1.84 g | C1(=CC=CC=C1)SCCCCCCl | C11H15ClS
reactant | m-chloroperbenzoic acid | one equivalent | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 5-phenylsulfinylpentyl chloride | 1.20 g | C1(=CC=CC=C1)S(=O)CCCCCCl | C11H15ClOS
